US09382238B2
To a mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (100 mg, 0.243 mmol) in pyridine (10 mL) were added 3-(2H-tetrazol-5-yl)-5-(trifluoromethyl)aniline (55.7 mg, 0.243 mmol) and T3P® (EA solvate) (220 mg, 0.346 mmol). The mixture was stirred at 20° C. for 1 h. LCMS showed the reaction was finished. The reaction was quenched with ice-water. The mixture was concentrated to give crude product, which was purified by TLC to give N-(3-(2H-tetrazol-5-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (75 mg, 0.104 mmol, 42.9% yield): 1H NMR (400 MHz, CD3OD-d4) δ 8.62 (d, J=4.4 Hz, 2H), 8.04 (d, J=1.5 Hz, 1H), 7.94 (s, 1H), 7.61 (dd, J=6.1, 7.8 Hz, 2H), 7.38 (d, J=8.6 Hz, 3H), 6.92-6.85 (m, 3H), 5.35 (s, 2H), 4.15 (d, J=6.8 Hz, 2H), 3.77 (s, 2H), 3.38-3.33 (m, 3H), 1.30-1.18 (m, 3H). ES-LCMS m/z 623 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.243 mmol, 100 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(2H-tetrazol-5-yl)-5-(trifluoromethyl)aniline | 0.243 mmol, 55.7 mg | N=1NN=NC1C=1C=C(N)C=C(C1)C(F)(F)F | C8H6F3N5
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-(2H-tetrazol-5-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.104 mmol, 75 mg, 42.9% yield | N=1NN=NC1C=1C=C(C=C(C1)C(F)(F)F)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O | C31H26F4N6O4
